US05939411
4-(N-Methylcarbamoyl)-4-phenylpiperidine
5.29 g of triethylamine and then 1.32 g of methylamine hydrochloride are added to a solution of 4 g of the compound obtained in step A of PREPARATION 1.5 in 20 ml of a DCM/DMF (50:50; v/v) mixture, the resulting mixture is cooled to 0-5° C., 6.37 g of BOP are added and the reaction mixture is left stirring for 24 hours at RT. It is concentrated under vacuum, the residue is extracted with ether, the organic phase is washed with water, with a pH 2 buffer solution, with water, with 10% NaOH solution, with water and with saturated NaCl solution and dried over MgSO4 and the solvent is evaporated off under vacuum. 3.72 g of the expected product are obtained.

reactant | triethylamine | 5.29 g | C(C)N(CC)CC | C6H15N
reactant | methylamine hydrochloride | 1.32 g | Cl.CN
reactant | BOP | 6.37 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DCM DMF | 20 ml | C(Cl)Cl.CN(C)C=O
product | 4-(N-Methylcarbamoyl)-4-phenylpiperidine | 3.72 g | CNC(=O)C1(CCNCC1)C1=CC=CC=C1 | C13H18N2O
